US06790860B2
A suspension of 31.15 g (150 mmol) 3-Ethoxycarbonyl-4-piperidone hydrochloride was suspended in 400 ml hexamethyldisilazane and heated under reflux (140° C.) for 2.5 h. The solution was evaporated complete, the residue dissolved in 400 ml THF and treated with 34 g (150 mmol) of naphthalene-2-sulfonylchloride in 150 ml THF. The reaction was stirred 16 h at room temperature, evaporated, treated with 400 ml aqueous 10% NaCl, stirred for 10 min and extracted with EtOAc (3×400 ml). The organic phase was dried (Na2SO4) and evaporated and crystallized from Et2O at 5° C. to give 53.1 g (90%) of 4-hydroxy-1-(naphthalene-2-sulfonyl)-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid ethyl ester, MS: 362 (MH+).

reactant | 3-Ethoxycarbonyl-4-piperidone hydrochloride | 150 mmol, 31.15 g | Cl.C(C)OC(=O)C1CNCCC1=O
reactant | naphthalene-2-sulfonylchloride | 150 mmol, 34 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | hexamethyldisilazane | 400 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 4-hydroxy-1-(naphthalene-2-sulfonyl)-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid ethyl ester | 53.1 g, 90% | C(C)OC(=O)C=1CN(CCC1O)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C18H19NO5S
